US07153815B2
2-(4-Chlorophenyl hydrazono) propionic acid (0.64 g, 3.0 mmol) was dissolved in tetrahydrofuran (3 ml), and carbonyl diimidazole (0.49 g, 3.0 mmol) was added under cooling with ice. After stirring at room temperature for 1 hour, a solution of 4-methoxybenzyl amine (0.41 g, 3.0 mmol) in tetrahydrofuran (3 ml) was added thereto. 15 hours later, the mixture was washed with 6N hydrocloric acid, 1N aqueous solution of sodium hydroxide and a saturated brine, dried on sodium sulfate and then filtered. The residue obtained by concentrating the resulting filtrate was suspended in a mixed solvent of hexane and chloroform (1:1) and filtered to obtain N-(4-methoxybenzyl)-2-(4-chlorophenyl hydrazono) propionic acid amide (Compound No. 93) (0.76 g, 2.3 mmol, 76%).

reactant | 2-(4-Chlorophenyl hydrazono) propionic acid | 3.0 mmol, 0.64 g | ClC1=CC=C(C=C1)NN=C(C(=O)O)C | C9H9ClN2O2
reactant | carbonyl diimidazole | 3.0 mmol, 0.49 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | 4-methoxybenzyl amine | 3.0 mmol, 0.41 g | COC1=CC=C(CN)C=C1 | C8H11NO
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | N-(4-methoxybenzyl)-2-(4-chlorophenyl hydrazono) propionic acid amide | COC1=CC=C(CNC(C(C)=NNC2=CC=C(C=C2)Cl)=O)C=C1 | C17H18ClN3O2
